US05231232
6,10,14-Trimethyl-5,10-pentadecadien-7-yn-2-one
A mixture of 155 mg (0.965 mmole) of 2-chloromethyl-6-methyl-1-heptene and 1-chloro-2,6-dimethyl-2-heptene (produced in accordance with Example XVII), 137 mg (1.01 mmoles) of 6-methyl-5-octen-7-yn-2-one (produced in accordance with Example II), 223 mg (1.61 mmoles) of anhydrous potassium carbonate, 20 mg (0.20 mmole) of cuprous chloride, and 23 mg (0.10 mmole) of benzyltriethylammonium chloride in 1.00 mL of acetonitrile (HPLC-grade) was stirred vigorously at room temperature for 20 hours, during which time the mixture was maintained under a nitrogen atmosphere. Isolation of the product in the manner described in the procedure of Example III afforded, after fractional evaporative distillation, 184 mg (73% yield) of the two named unsaturated ketones: boiling point 122°-138° C. (bath temperature, 0.25 mm). The proton NMR spectrum of 6-methyl-10-[4-methylpentyl]-5,10-undecadien-7-yn-2-one exhibited a doublet (J=6.6Hz) at δ0.88 [6H's, (CH3)2C], a singlet at δ1.79 (vinyl CH3 bonded to C-6), a singlet at δ2.13 (CH3C=O), a singlet at δ2.97 (two hydrogens bonded to C-9), two singlets at δ4.78 and 5.00 (two vinyl H's, C=CH2), and a triplet at δ5.65 (vinyl H bonded to C-5). The presence of 6,10,14-trimethyl-5,10-pentadecadien-7-yn-2-one as the other compound in the product mixture was indicated by two triplets at δ5.35 and 5.15 (vinyl H bonded to C-11, Z and E stereoisomers) on the proton NMR spectrum. There is no need to separate these two C-18 unsaturated ketones, since catalytic hydrogenation (H2 /Pd-C in ethanol) will yield the same product in both cases: 6,10,14-trimethyl-2-pentadecanone. The latter ketone has previously been converted to phytol by F. G. Fischer and K. Lowenberg [Ann., 475, 183 (1929)].

reactant | 6,10,14-trimethyl-2-pentadecanone | CC(CCCC(C)=O)CCCC(CCCC(C)C)C | C18H36O
reactant | phytol | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
product | 6,10,14-Trimethyl-5,10-pentadecadien-7-yn-2-one | CC(=CCCC(C)=O)C#CCC(=CCCC(C)C)C | C18H28O
